Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ Cardiac Cath
___ Aortic valve replacement with a 21 mm Bicor Epic St. 
___ valve
 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of aortic 
stenosis which has been followed by serial echocardiograms. Most 
recent echocardiogram in ___ revealed severe aortic stenosis 
with peak and mean gradients of 52 and 31mmHg, respectively. The 
aortic valve area was 0.8cm2. Since ___, she noted 
progressively worsening fatigue, dyspnea on exertion and 
decreased exercise tolerance. She stated that while on a 
vacation with friends, she noted that she became short of breath 
while walking for about 5 minutes on a flat surface and that she 
had difficulty keeping up with her friends. She also stated that 
at times when she had dyspnea on exertion, she also experience 
chest pressure. The chest pressure would resolve after about a 
minute of rest. In addition, she complained of postural 
dizziness, palpitations and nocturia. Given the progression of 
her symptoms, she was referred to Dr. ___ surgical 
evaluation.
 
Past Medical History:
Aortic Stenosis
Anxiety
Arthritis
Bulging Disc L4-L5
Chronic Obstructive Pulmonary Disease
Endometriosis
Fatty Liver
Hiatal Hernia s/p repair
Hypertension
Hyperlipidemia
Hypothyroid
Motor Vehicle Accident
Obesity
Protruding Disc L5-S1
Spinal Stenosis
Total abdominal hysterectomy
Tonsillectomy
Appendectomy
Lap Band ___ band deflated preop
 
Social History:
___
Family History:
Father - died at age ___ from complications of CABG at ___
Mother - died at age ___ history of abdominal surgery for 
cancer, history of Alzheimer's disease
Sister - PFO
Sister - ___, peritonitis
Brother - history of throat and colon cancer, deceased
 
Physical Exam:
HR: 85  BP: 147/93  RR: 22  O2 Sat: 93% RA 
Height: 64"    Weight: 212     BSA:

General: Mildly anxious woman, NAD
Skin: Warm, dry and intact
HEENT: NCAT, PERRLA, EOMI
Neck: Supple, full ROM
Chest: Lungs clear bilaterally 
Heart: Regular rate and rhythm, III/VI systolic ejection murmur
Abdomen: Normal bowel sounds, protruberant, non-tender, 
non-distended
Extremities: Warm, well-perfused, trace edema 
Varicosities: Superficial varicosities
Neuro: Grossly intact 
Carotid Bruit  -  transmitted murmur
 
Pertinent Results:
___ Cath: right dominant LMCA: absent; LAD arises from left 
cusp; LCX arises from proximal RCA LAD:  normal LCX:  arises 
anomalously from proximal RCA; normal RCA:  normal
.
___ Carotid U/S: Findings as stated above which indicate no 
significant ICA stenosis bilaterally (graded as less than 40% 
bilaterally).
.
___ Echo: PRE-BYPASS: Limited exam due to pt's history of 
gastric banding. Upper and mid-esophageal views only. No 
spontaneous echo contrast is seen in the body of the left 
atrium. Regional left ventricular wall motion is normal. Overall 
left ventricular systolic function is normal (LVEF>55%). The 
ascending, transverse and descending thoracic aorta are normal 
in diameter and free of atherosclerotic plaque. The aortic valve 
leaflets are moderately thickened. There is critical aortic 
valve stenosis (valve area 0.7cm2 by planimetry)). The mitral 
valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. Post-Bypass: Pt is being AV-paced and is 
on a phenylephrine infusion. Global LV and RV function remains 
unchanged. There is a well seated 21mm ___ bioprosthetic 
valve in place. There is no perivalvular leak. Residual 
gradients unable to be obtained. Other valvular structures 
remain unchanged from prior. Remainder of the exam is unchanged.
.

___ 04:33AM BLOOD WBC-7.5 RBC-2.80* Hgb-8.6* Hct-25.1* 
MCV-90 MCH-30.9 MCHC-34.3 RDW-12.5 Plt ___
___ 02:01AM BLOOD WBC-11.2* RBC-3.27* Hgb-10.1* Hct-29.7* 
MCV-91 MCH-31.0 MCHC-34.1 RDW-12.6 Plt ___
___ 02:01AM BLOOD ___ PTT-29.5 ___
___ 04:33AM BLOOD Na-132* K-3.4 Cl-92*
___ 02:01AM BLOOD Glucose-137* UreaN-9 Creat-0.5 Na-134 
K-4.0 Cl-104 HCO3-25 AnGap-9
___ 04:51AM BLOOD Glucose-108* UreaN-10 Creat-0.6 Na-127* 
K-4.1 Cl-92* HCO3-28 AnGap-11
 
Brief Hospital Course:
Mrs. ___ was admitted following her cardiac cath on ___. She 
underwent usual pre-operative testing and was brought to the 
operating room on ___ where she underwent an aortic valve 
replacement. Please see operative note for surgical details. 
Following surgery she was transferred to the CVICU for invasive 
monitoring in stable condition.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  
Chest tubes and pacing wires were discontinued without 
complication.  She developed hyponatremia which improved with 
fluid restriction.  The patient was evaluated by the physical 
therapy service for assistance with strength and mobility.  By 
the time of discharge on POD 4 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged home with ___ in good 
condition with appropriate follow up instructions.
 
Medications on Admission:
ALPRAZOLAM - alprazolam 0.5 mg tablet. 1 tablet(s) by mouth 
three
times a day as needed for prn -  (Prescribed by Other Provider)
ATORVASTATIN - atorvastatin 20 mg tablet. 1 tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
BUPROPION HCL [WELLBUTRIN SR] - Wellbutrin SR 100 mg
tablet,sustained-release. 1 tablet extended release(s) by mouth
once a day -  (Prescribed by Other Provider)
DILTIAZEM HCL - diltiazem CD 240 mg capsule,extended release 24
hr. 1 capsule,extended release 24hr(s) by mouth once a day - 
(Prescribed by Other Provider)
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - Advair Diskus 250 
mcg-50
mcg/dose powder for inhalation. 1 puffs inh twice a day - 
(Prescribed by Other Provider)
FUROSEMIDE - furosemide 20 mg tablet. 1 tablet(s) by mouth once 
a
day -  (Prescribed by Other Provider)
LEVOTHYROXINE - levothyroxine 100 mcg tablet. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
LIDOCAINE [LIDODERM] - Lidoderm 5 % (700 mg/patch) Adhesive
Patch. apply daily during the day (wear 12 hours) -  (Prescribed
by Other Provider)
TRAMADOL - tramadol 50 mg tablet. ___ tablet(s) by mouth three
times a day as needed for prn -  (Prescribed by Other Provider)
TRIAMTERENE-HYDROCHLOROTHIAZID - triamterene 37.5
mg-hydrochlorothiazide 25 mg capsule. 1 capsule(s) by mouth once
a day -  (Prescribed by Other Provider)
 
Medications - OTC
CALCIUM PHOSPHATE-VITAMIN D3 [CITRACAL + D] - Citracal + D 250 
mg
calcium-250 unit chewable tablet. 1 tablet, chewable(s) by mouth
once a day -  (Prescribed by Other Provider)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
1,000
unit capsule. 1 capsule(s) by mouth once a day -  (Prescribed by
Other Provider)
IBUPROFEN [ADVIL] - Advil 200 mg tablet. 3 tablet(s) by mouth
q6hrs as needed for prn -  (Prescribed by Other Provider)
LACTOPEROXI-GLUC OXID-POT THIO [BIOTENE ORALBALANCE] - Dosage
uncertain -  (Prescribed by Other Provider)
MULTIVITAMIN-MINERALS-LUTEIN [CENTRUM SILVER] - Centrum Silver
tablet. 1 tablet(s) by mouth once a day -  (Prescribed by Other
Provider)
 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
RX *alprazolam 0.5 mg 1 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0
2. Atorvastatin 20 mg PO DAILY 
3. BuPROPion (Sustained Release) 100 mg PO QAM 
4. Fluticasone-Salmeterol Diskus (250/50)  2 INH IH DAILY 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
8. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Aspirin Low Dose] 81 mg 1 tablet,delayed release 
(___) by mouth daily Disp #*30 Tablet Refills:*0
9. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
10. Citracal + D (calcium phosphate-vitamin D3) 250 mg calcium- 
250 unit Oral daily 
11. flaxseed oil-omega 3,6,9 1,300 mg-845 mg -117 mg-117 mg Oral 
daily 
12. Furosemide 20 mg PO DAILY 
13. Nephrocaps 1 CAP PO DAILY 
14. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 
15. Lidocaine 5% Patch 1 PTCH TD DAILY 
RX *lidocaine [Lidoderm] 5 % (700 mg/patch) 1 patch daily Disp 
#*30 Each Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic Stenosis s/p Aortic valve replacement
Past medical history:
Anxiety
Arthritis
Bulging Disc L4-L5
Chronic Obstructive Pulmonary Disease
Endometriosis
Fatty Liver
Hiatal Hernia s/p repair
Hypertension
Hyperlipidemia
Hypothyroid
Motor Vehicle Accident
Obesity
Protruding Disc L5-S1
Spinal Stenosis
Total abdominal hysterectomy
Tonsillectomy
Appendectomy
Lap Band ___ band deflated preop
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Ultram
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___